US08835632B2
4.3.2.3 Synthesis of (2Z,3E,5Z)-5-(1,1-dioxido-3-oxo-1-benzothiophen-2(3H)-ylidene)-2-(1,3,3-trimethyl-1,3-dihydro-2H-indol-2-ylidene)pent-3-enenitrile (I-SO-CN)
A mixture of (1,3,3-trimethyl-2,3-dihydro-1H-indol-2-yl)acetonitrile (397 mg, 2.00 mmol) and (2Z)-2-[(2E)-3-methoxyprop-2-en-1-ylidene]-1-benzothiophen-3(2H)-one 1,1-dioxide (501 mg, 2.00 mmol) were placed in a 10-mL one-necked round bottom flask. The flask was heated in an oil bath at 210° C. for 2 hours and then cooled to room temperature. The reaction mixture was extracted with dichloromethane (100 mL). The organic solution was passed through a short silica column, the dichloromethane was evaporated and the pure dye was obtained by recrystallization from methanol. The yield was 511 mg of green crystals (63% of theory).

reactant | (1,3,3-trimethyl-2,3-dihydro-1H-indol-2-yl)acetonitrile | 2.00 mmol, 397 mg | CN1C(C(C2=CC=CC=C12)(C)C)CC#N | C13H16N2
reactant | (2Z)-2-[(2E)-3-methoxyprop-2-en-1-ylidene]-1-benzothiophen-3(2H)-one 1,1-dioxide | 2.00 mmol, 501 mg | CO/C=C/C=C/1\S(C2=C(C1=O)C=CC=C2)(=O)=O | C12H10O4S
product | (2Z,3E,5Z)-5-(1,1-dioxido-3-oxo-1-benzothiophen-2(3H)-ylidene)-2-(1,3,3-trimethyl-1,3-dihydro-2H-indol-2-ylidene)pent-3-enenitrile | O=S1(\C(\C(C2=C1C=CC=C2)=O)=C/C=C/C(/C#N)=C\2/N(C1=CC=CC=C1C2(C)C)C)=O | C24H20N2O3S
